US07960552B2
To a solution of methyl 6-[4-({3-[3-(2,6-dichlorophenyl) -5-(1-methylethyl)-4-isoxazolyl]propyl}oxy)phenyl]-2-quinolinecarboxylate (14 mg, 0.024 mmol) in 1:1 tetrahydrofuran:methanol (1 mL) was added 1 N sodium hydroxide (0.089 mL, 0.089 mmol). The solution was heated in a microwave reactor at 90° C. for 10 minutes. Then 1 N hydrochloric acid (0.089 mL, 0.089 mmol) was added and the mixture was concentrated. Water and ethyl acetate were added to the residue and the layers were separated. The ethyl acetate layer was dried over magnesium sulfate and concentrated to afford 12 mg of 6-[4-({3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]propyl}oxy)phenyl]-2-quinolinecarboxylic acid as a yellow solid (0.021 mmol, 89%). 1H-NMR (400 MHz, DMSO-d6) δ 8.42 (d, J=9 Hz, 1H), 8.28 (d, J=9 Hz, 1H), 8.19 (d, J=9 Hz, 1H), 8.06-8.04 (m, 2H), 7.64 (d, J=9 Hz, 2H), 7.41-7.29 (m, 3H), 6.93 (d, J=9 Hz, 2H), 3.90 (t, J=6 Hz, 2H), 3.20 (septet, J=7 Hz, 1H), 2.52 (t, J=6 Hz, 2H), 1.83-1.77 (m, 2H), 1.34 (d, J=7 Hz, 6H). HRMS (ESI) C31H26Cl2N2O4 calculated: 561.1342 (M+H)+, found: 561.1344 (M+H)+.

reactant | methyl 6-[4-({3-[3-(2,6-dichlorophenyl) -5-(1-methylethyl)-4-isoxazolyl]propyl}oxy)phenyl]-2-quinolinecarboxylate | 0.024 mmol, 14 mg | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CCCOC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C | C32H28Cl2N2O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.089 mmol, 1 N, 0.089 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.089 mmol, 1 N, 0.089 mL | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | 6-[4-({3-[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]propyl}oxy)phenyl]-2-quinolinecarboxylic acid | 0.021 mmol, 12 mg, 89% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CCCOC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C31H26Cl2N2O4
